US05071844
(S)-2-Hydroxymethyl-1-(4-methoxyphenethyl)pyrrolidine
A mixture of (S)-2-pyrrolidinemethanol (3.0 g), 4-methoxyphenethyl bromide (7.0 g), sodium carbonate (3.5 g) and sodium iodide (100 mg) in acetonitrile (40 ml) was heated under reflux for 16 hours and evaporated under reduced pressure. The residue was partitioned between ethyl acetate and water and the organic layer washed with water and extracted with 2M hydrochloric acid. The acidic extract was washed with ethyl acetate, basified with solid sodium carbonate and extracted with ethyl acetate. The organic extract was dried over sodium sulphate and evaporated under reduced pressure to give the title compound as a colourless oil, (4.0 g, 57%).

reactant | (S)-2-pyrrolidinemethanol | 3.0 g | N1[C@@H](CCC1)CO | C5H11NO
reactant | 4-methoxyphenethyl bromide | 7.0 g | COC1=CC=C(CCBr)C=C1 | C9H11BrO
reactant | sodium carbonate | 3.5 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
catalyst | sodium iodide | 100 mg | [I-].[Na+]
product | (S)-2-Hydroxymethyl-1-(4-methoxyphenethyl)pyrrolidine | 4.0 g, 57% | OC[C@H]1N(CCC1)CCC1=CC=C(C=C1)OC | C14H21NO2
